US07479562B2
1-[3-(tert-Butyldimethylsilanyloxy)propyl]-3-(3,3-dimethoxypropyl)imidazolidin-2-one
1-[3-(tert-Butyldimethylsilanyloxy)propyl]imidazolidin-2-one (17.65 g, 68.30 mmol; prepared as described in Preparation 1) was slowly added to a suspension of NaH (8.20 g, 204.9 mmol, 3.0 eq, 40% mineral oil) in DMA (400 mL). Deprotonation was monitored with a bubbler, and bubbling was ceased after one hour of stirring at room temperature. A solution of 3-bromopropionaldehyde dimethyl acetal (25.0 g, 136.6 mmol, 2.0 eq) in DMA (100 mL) was slowly added to the reaction mixture over a period of 2 hours via an addition funnel. Following an additional hour of stirring at room temperature, the solution was concentrated in vacuo and the crude reaction mixture was taken up in DCM (200 mL) and washed with water (2×200 mL) and brine (2×200 mL). The organic phase was dried over Na2SO4, filtered and concentrated to afford the title compound (24.53 g, 68.8 mmol) as light yellow oil. The material was used without further purification.

reactant | 1-[3-(tert-Butyldimethylsilanyloxy)propyl]imidazolidin-2-one | 68.30 mmol, 17.65 g | [Si](C)(C)(C(C)(C)C)OCCCN1C(NCC1)=O | C12H26N2O2Si
reactant | NaH | 204.9 mmol, 8.20 g, 3.0 eq | [H-].[Na+]
reactant | 3-bromopropionaldehyde dimethyl acetal | 136.6 mmol, 25.0 g, 2.0 eq | COC(CCBr)OC | C5H11BrO2
solvent | DMA | 400 mL | CC(=O)N(C)C | C4H9NO
solvent | DMA | 100 mL | CC(=O)N(C)C | C4H9NO
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-[3-(tert-Butyldimethylsilanyloxy)propyl]-3-(3,3-dimethoxypropyl)imidazolidin-2-one | 68.8 mmol, 24.53 g | [Si](C)(C)(C(C)(C)C)OCCCN1C(N(CC1)CCC(OC)OC)=O | C17H36N2O4Si
